Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fall
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ female presents as a transfer from an OSH with the above 
fracture s/p mechanical fall.

This history is collected with the help of prior documentation 
and family at bedside. The patient was in her usual state of 
health until yesterday at which time the patient was napping in 
a reclining chair and fell. This was an unwitnessed fall, 
however, she was found by her daughter-in-law and son (with whom 
she lives) when they heard a loud noise. Per the family, the 
mother
did not lose consciousness, though they believe she hit her head 
based on injuries noted on her face.

After the fall, the patient continued to perform at her baseline 
level of activity. At baseline, the patient is ambulatory with 
the use of a rolling walker. She did not wish to be evaluated 
yesterday because she wanted to rest, however, she continued to 
complain of neck pain today to her son and daughter-in-law, so 
they took her to an outside hospital and she was subsequently
transferred to ___. She denies numbness, tingling, radiating 
pain down her extremities. She denies changes in bowel/bladder 
function. She denies saddle anesthesia.

 
Past Medical History:
Hypertension, Hyperlipidemia, RBBB

 
Social History:
___
Family History:
Non-contributory 
 
Physical Exam:
Admission Physical Exam:

Temp: 99.4 HR: 70 BP: 160/61 Resp: 18 O2 Sat: 96
Constitutional: VS: [] WNL [x] abnormal - HTN, Sa96/ra (unknown 
baseline) Constitutional:
Comfortable. Head/eyes: PERRLA, EOMI. ENT/neck: OP WNL 
Chest/Resp:
Clear to auscultation bilaterally. Cardiovascular: RRR, Normal 
S1/S2, no
murmurs/rubs/gallops. Abdomen: Soft, nondistended. Nontender. 
Musc/Extr/
Back: No clubbing, cyanosis, or edema. ___. Skin: No rash. 
Warm and
dry. Neuro: Speech fluent. Psych: Normal mood. Normal mentation. 
ATLS -
Primary: ABC intact, GCS 15 - Secondary: Ecchymosis and small 
subgaleal
hematoma over left forehead. Ecchymosis on the left lower 
eyelid. Pupils
are 8 mm and not responsive to light bilaterally. Extraocular 
movements are
painless. The left orbital rim is nontender to palpation. The 
nasal bridge is
stable. There is no nasal septal hematoma. Bilateral external 
auditory canals are
occluded with cerumen. Cervical spine tenderness; no thoracic or 
lumbar spine
tenderness. Remainder of trauma exam unremarkable for trauma to 
the torso or
4 extremities. Neurologic exam notable for full strength in all 
4 extremities, intact
rectal tone

Discharge Physical Exam:
Gen: NAD, AxOx3
HEENT: C-collar in place
Card: RRR, no m/r/g
Pulm: CTAB, no respiratory distress
Abd: Soft, non-tender, non-distended, normal bs.  
Ext: No edema, warm well-perfused

 
Pertinent Results:
OSH IMAGING:

CT C-spine(OSH) with evidence of bilateral posterior
arch fractures of C1 and a Type II odontoid fracture. There is
evidence of a lytic lesion in the occiput.

LABS:

___ 09:24AM BLOOD WBC-6.5 RBC-3.15* Hgb-9.2* Hct-29.2* 
MCV-93 MCH-29.2 MCHC-31.5* RDW-15.7* RDWSD-53.4* Plt ___
___ 03:43PM BLOOD WBC-10.6* RBC-3.24* Hgb-9.6* Hct-28.8* 
MCV-89 MCH-29.6 MCHC-33.3 RDW-15.2 RDWSD-49.6* Plt ___
___ 03:43PM BLOOD Neuts-80.1* Lymphs-7.2* Monos-11.6 
Eos-0.2* Baso-0.2 Im ___ AbsNeut-8.52* AbsLymp-0.77* 
AbsMono-1.23* AbsEos-0.02* AbsBaso-0.02
___ 09:24AM BLOOD Plt ___
___ 03:43PM BLOOD Plt ___
___ 03:43PM BLOOD ___ PTT-25.9 ___
___ 03:43PM BLOOD UreaN-19
___ 03:43PM BLOOD Lipase-10
___ 03:48PM BLOOD Glucose-111* Lactate-0.6 Creat-0.6 Na-135 
K-3.1* Cl-96 calHC___
 
Brief Hospital Course:
**Rehabilitation will be needed for less than 30 days**

Ms. ___ is a ___ y/o female who presented to ___ as a 
transfer from an OSH with the above fracture s/p mechanical 
fall.  At the OSH, she was found on imaging to have bilateral 
posterior arch fractures of C1, a Type II odontoid fracture, and 
a lytic lesion of the occiput. Neurosurgery evaluated the 
patient and the patient was neurovascularly intact with a closed 
injury.  The patient was managed non-operatively with a C-collar 
in place and plan for outpatient Neurosurgery follow-up.  The 
patient was admitted to the Acute Care Surgery/Trauma service 
for pain control and to work with physical therapy.  The patient 
was ordered for tramadol and acetaminophen for pain control. It 
was determined the patient would benefit from rehab placement. 

The patient remained stable from a cardiovascular standpoint; 
vital signs were routinely monitored.  The patient received 
subcutaneous heparin and ___ dyne boots were used during this 
stay and was encouraged to get up and ambulate as early as 
possible.

At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable.  The patient was tolerating a diet, 
voiding without assistance, and pain was well controlled.  The 
patient received discharge teaching and follow-up instructions 
with understanding verbalized and agreement with the discharge 
plan.

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Lisinopril 5 mg PO DAILY 
2. Pravastatin 40 mg PO QPM 
3. indapamide 5 mg oral DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO TID  
2.  Docusate Sodium 100 mg PO BID 
Hold for loose stool  
3.  Heparin 5000 UNIT SC BID 
Consider discontinuing this medication once the patient is more 
mobile.   
4.  Senna 17.2 mg PO HS 
Hold for loose stool  
5.  TraMADol 25 mg PO Q6H:PRN pain 
RX *tramadol 50 mg 0.5 (One half) tablet(s) by mouth every six 
(6) hours Disp #*10 Tablet Refills:*0 
6.  indapamide 5 mg oral DAILY  
7.  Lisinopril 5 mg PO DAILY  
8.  Pravastatin 40 mg PO QPM  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
-Bilateral posterior arch fractures of C1
-Type II odontoid fracture
-Lytic lesion of the occiput
 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital after a fall and were found to 
have fractures of your spine. You were evaluated by the 
Neurosurgery service and your injuries were managed 
non-operatively and you were placed in a hard cervical collar 
which should remain in place until you follow-up in the 
outpatient ___ clinic.  You were evaluated by physical 
therapy and it is recommended you be discharged to rehab to 
continue your recovery.  You are now ready to be discharged from 
the hospital.  Please note the following discharge instructions:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.
Avoid driving or operating heavy machinery while taking pain 
medications.

All the best,
Your ___ team

 
Followup Instructions:
___